US09079888B2
Step (ii): Preparation of 4-(1-Cyclobutyl piperidin-4-yloxy)benzonitrile
To a stirred solution of 4-(4-Cyano phenoxy)piperidine-1-carboxylic acid tert-butyl ester (21.25 g, 0.0704 moles) in dichloromethane (300 mL) was added trifluoroacetic acid (81.4 g, 0.714 moles) and stirred the reaction mass overnight at room temperature. After completion of reaction, solvent was evaporated under vacuum and the residue, thus obtained, was basified with 10% caustic lye solution. The reaction mass was extracted with ethyl acetate twice, the combined organic layer was dried over sodium sulphate and evaporated under reduced pressure. The crude product, thus obtained, was treated with cyclobutanone (5.18 g, 0.074 moles), acetic acid (4.89 g, 0.0815 moles) in ethylene dichloride (100 mL), and stirred for 4 hours at room temperature. Sodium triacetoxyborohydride (35.06 g, 0.165 moles) was added to the reaction mass in a single lot and the mixture was stirred at room temperature for 2 hours. The reaction mixture was quenched in water and basified with lye solution. The layers were separated and the aqueous layer was extracted with dichloromethane twice. The combined organic layers were dried over sodium sulfate, concentrated under vacuum and the residual mass was further purified by flash chromatography (dichloromethane: triethylamine, 9.5:0.5) to obtain the title compound 10.92 g (Yield: 60.5%).

reactant | 4-(4-Cyano phenoxy)piperidine-1-carboxylic acid tert-butyl ester | 0.0704 moles, 21.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
reactant | trifluoroacetic acid | 0.714 moles, 81.4 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | cyclobutanone | 0.074 moles, 5.18 g | C1(CCC1)=O | C4H6O
reactant | acetic acid | 0.0815 moles, 4.89 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.165 moles, 35.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | ethylene dichloride | 100 mL | C(CCl)Cl | C2H4Cl2
product | 4-(1-Cyclobutyl piperidin-4-yloxy)benzonitrile | 10.92 g, Yield: 60.5% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C16H20N2O
